Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Dark urine, light stools, pruritis
 
Major Surgical or Invasive Procedure:
ERCP ___

 
History of Present Illness:
As per HPI by admitting MD: 

___ with hx of htn, osteoarthritis of knee, HLD presenting with 
painless jaundice and pruritis x1 month. 

Pt recalls onset of darkening urine ___ months prior to 
presentation, with associated lighter stools. One month prior to 
presentation, urine looked like "dark steeped tea," and stool 
was "very pale yellow." Around that time, his wife also noticed 
that his sclera were yellow.

In addition to jaundice, he has had progressive, severe 
pruritis, for which he has tried benadryl, cholestyramine 
without significant relief. Pruritis has interfered with sleep, 
work; he is unable to talk on the phone ___ pruritis, or drive. 
Over the past ___ months, he has had both intentional and 
unintentional weight loss; he reports working out, bicycling in 
an attempt to lose weight, lost 15 lbs, then another 20 lb 
although he had stopped trying. In total, he thinks 293 lbs->261 
lbs. Endorses some chills, diaphoresis overnight, which he has 
attributed to severe pruritis. 

Denies headaches, chest pain, SOB. He has noticed intermittent 
loose stools, but on day of presentation notes mild 
constipation. Denies dysuria, hematuria, noted bilateral ___ 
edema in ___ which has since resolved. He also reports 
ibuprofen 600 mg q4h x1.5 months in ___ for knee pain.

Pt initially presented to his PCP ___ ___ for evaluation of 
above symptoms. At that time, labs were notable for ALT 353, AST 
152, Alk phos 469, Tbili 6.7. RUQ u/s was ordered, and was done 
on ___ revealed "top normal size of CBD at 7 mm." Hepatitis 
A Ab positive, hepatitis A IgM negative. MRCP was ordered, and 
was referred to GI for further evaluation. He was seen by GI on 
___, at which time repeat labs revealed Tbili 13.2, Dbili 
8.2, ALT 124, AST 60. LKM-1 IgG, AMA negative, AFP 2.1, INR 1.5, 
Ceruloplasmin 54.5 (WNL), CMV IgG and IgM negative, EBV IgG 
positive, HBsAb negative, HBsAg negative. Per GI note dated 
___, assessment at that time was: "Given the negative viral 
hepatitis profile (a,b,c), I will broaden the search including 
CMV, EBV, and HSV, as well as other autoimmune etiologies and 
inherent conditions. I also discussed with patient about the 
rare and unlikelihood of fulminant hepatitis with liver failure, 
in which case inpatient management and possible liver 
transplantation may be necessary. The pruritus is not uncommon 
given hyperbilirubinemia, and I will prescribed Atarax. 
Regarding the epigastric abdominal pain, which may be irritation 
of the stomach/gastritis from his ibuprofen use. I will also 
prescribe ranitidine, which has antihistamine property, which 
may potentially help with the pruritus as well. I indicated the 
need to monitor his situation closely to ensure that he does not 
eat all into hepatic failure." 

On ___, Tbili had increased from 13.2 to 15.6. Pt called PCP 
to discuss terrible, refractory pruritis, and was directed to 
the ED for admission to hepatology service.

In the ___ ED: VS 98.3, 59, 139/86, 98% RA Exam notable for: 
"-Scleral icterus -Diffuse jaundice -Mild epigastric pain -No 
right upper quadrant pain -No lower extremity edema"

Labs notable for: WBC 9.2, Hb 14.5, Plt 248 BUN 18, Cr 1.2 ALT 
84, AST 57, Alk phos 413, Tbili 17.2, lipase 38, Albumin 4.5, 
CEA 2.9, INR 1.5

Imaging: Severe intra and extrahepatic biliary dilatation 
extending to the level of the ampulla. Though not definitive, 
there is soft tissue prominence near the ampulla which raises 
concern for an underlying mass. There is no pancreatic ductal 
dilatation. No calcified cholelithiasis or choledocholithiasis. 
Gastroenterology consultation is recommended.

Consults: ERCP - plan for EUS and ERCP with stent in am

Received: Hydroxyzine 25 mg Hydrocortisone ointment 1%

On arrival to the floor, pt confirms above hx in detail. 
Endorses minimal epigastric discomfort, denies chest pain, SOB, 
fevers, current chills.

PMH:
Hypertension
Osteoarthritis of L knee
Squamous cell cancer
Social History: Lives in ___ with wife, daughter ___,
grandson, mother-in-law, 4 dogs, 4 frogs. ___ is his wife.
Never smoker, rare EtOH - often several months without a drink.
Denies marijuana, cocaine, IVDU. Has a ___
company.

Family History, per prior notes: 
Father fell off a building when pt when he was little, didn't
seek medical care after he recovered from that. Paternal
grandmother (she was ___ apparently was jaundiced at time of
her death, unknown age.
5 brothers, one of whom had DI as a baby, now has "full blown
DM," has also had an MI
Sister who has autoimmune issue
Another sister with another autoimmune disease
One of those sisters also has brainstem mass that has been
present since birth

 
Past Medical History:
Hypertension
Osteoarthritis of L knee
Squamous cell cancer

 
Social History:
___
Family History:
-Father fell off a building when pt when he was little, didn't 
seek medical care after he recovered from that. Paternal 
grandmother (she was ___ apparently was jaundiced at time of 
her death, unknown age. 
-5 brothers, one of whom had DI as a baby, now has "full blown 
DM," has also had an MI
-Sister who has autoimmune issue
-Another sister with another autoimmune disease
-One of those sisters also has brainstem mass that has been 
present since birth
Per his sister there are family members with "pancreatic 
problems" but they aren't sure of details. 
-Mother with history of ERCP but unclear why 

 
Physical Exam:
ADMISSION: 
=========
VS: 98.4 PO 154 / 80R Lying 88 18 97 RA 
GEN: obese male, jaundiced, alert and interactive, comfortable,
no acute distress
HEENT: PERRL, ++ scleral icterus, conjunctiva pink, oropharynx
without
lesion or exudate, moist mucus membranes, ears without lesions 
or
apparent trauma
LYMPH: no anterior/posterior cervical, supraclavicular 
adenopathy
CARDIOVASCULAR: Regular rate and rhythm without murmurs, rubs, 
or
gallops
LUNGS: clear to auscultation bilaterally without rhonchi,
wheezes, or crackles
GI: soft, nontender, without rebounding or guarding, 
nondistended
with normal active bowel sounds, no hepatomegaly
EXTREMITIES: no clubbing, cyanosis, +trace bilateral pitting
edema
GU: no foley
SKIN: diffuse erythematous maculopapular lesions distributed 
over
torso, face, bilateral UE and ___
NEURO: A&Ox3, cranial nerves II-XII grossly intact, strength and
sensation grossly intact
PSYCH: normal mood and affect

DISCHARGE:
=========
VS ___ T 97.7, BP 120/81, HR 68, RR 18, o2 98 Ra 
Gen - sitting up in the chair, a bit uncomfortable appearing 
(due to itching)
HEENT - moist oral mucosa w/o OP lesions, +scleral icterus
___ - RRR, s1/2, no murmurs
Pulm - CTAb/l, no w/r/r
GI - soft, non tender, non distended, +bowel sounds 
Ext - no peripheral edema or cyanosis 
Skin - warm, dry, skin is jaundice
Psych - calm and cooperative 

 
Pertinent Results:
ADMISSION/SIGNIFICANT LABS: 
=======================
___ 03:30PM BLOOD WBC-9.2 RBC-4.72 Hgb-14.5 Hct-42.8 MCV-91 
MCH-30.7 MCHC-33.9 RDW-17.9* RDWSD-59.3* Plt ___
___ 03:30PM BLOOD Glucose-109* UreaN-18 Creat-1.2 Na-138 
K-4.0 Cl-104 HCO3-21* AnGap-13
___ 03:30PM BLOOD ALT-84* AST-57* AlkPhos-413* 
TotBili-17.2*
___ 03:30PM BLOOD CEA-2.9

MICRO: 
=====
URINE CULTURE (Final ___:    NO GROWTH. 

IMAGING/OTHER STUDIES: 
====================

___ ERCP report reviewed in ___, notable for successful
placement of ___ plastic CBD stent and brushings. 

PATHOLOGY PENDING 

CTa/p 
IMPRESSION:  
Severe intra and extrahepatic biliary dilatation extending to 
the
level of the ampulla.  Though not definitive, there is soft
tissue prominence near the ampulla which raises concern for an
underlying mass.  There is no pancreatic ductal dilatation.  No
calcified cholelithiasis or choledocholithiasis. 
Gastroenterology
consultation is recommended. 

LABS ON DISCHARGE: 
=================

___ 06:35AM BLOOD WBC-8.0 RBC-4.38* Hgb-13.5* Hct-39.6* 
MCV-90 MCH-30.8 MCHC-34.1 RDW-18.0* RDWSD-59.6* Plt ___
___ 06:35AM BLOOD ___
___ 06:35AM BLOOD Glucose-115* UreaN-19 Creat-1.1 Na-140 
K-4.3 Cl-101 HCO3-25 AnGap-14
___ 06:35AM BLOOD ALT-68* AST-59* AlkPhos-364* 
TotBili-16.7*
 
Brief Hospital Course:
___ with hx of htn, osteoarthritis of knee, HLD presenting with 
painless jaundice and pruritis x1 month, found to have biliary 
ductal dilatation and ?soft tissue mass at ampulla, concerning 
for malignancy. 

# Pruritis: 
# Biliary obstruction: 
Progressive Tbili elevation and pruritis, painless jaundice, 
with CT evidence of biliary ductal dilatation and concern for 
ampullary soft tissue mass. No fever or leukocytosis to raise 
concern for acute cholangitis, although he is at high risk for 
infectious complications of biliary obstruction. Underwent 
EUS/ERCP with successful placement of plastic CBD stent along 
with brushings and biopsy of ampullary mass lesion. Will require 
close outpatient follow up to discuss results of pathology and 
coordination of next steps in management. He will also likely 
need staging CT chest to evaluate for metastatic disease but 
this was deferred until pathology confirms malignancy and will 
need to be done as an outpatient. For pruritis, his 
cholestyramine was increased to BID and he was advised to apply 
a topical lotion such as Sarna for itching. As T bili trends 
down this is expected to improve. ___ continue hydroxyzine PRN 
and Benadryl PRN (over the counter). 

# HLD: Atorvastatin was d/ced as outpatient when LFT elevation 
noted. This was held upon d/c again. 

# HTN: continue home amlodipine

# Severe malnutrition - in the context of acute illness. Would 
benefit from outpatient nutrition support. 

# Misc: takes various OTC supplements. Advised to discontinue 
all for the time being since it is unclear what may affect the 
liver. 

TRANSITIONAL ISSUES: 
=================
[] repeat LFTs at outpatient follow up to ensure downtrending 
bili
[] Ampullary mass and ERCP brushing pathology pending on 
discharge
[] staging CT chest in case of malignancy
[] f/u with ERCP team within the next ___ weeks
[] f/u with PCP this week for lab check and to ensure pruritus 
improves 

Time spent: 40 minutes

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ranitidine 150 mg PO BID 
2. HydrOXYzine 25 mg PO QID:PRN pruritis 
3. Cholestyramine 4 gm PO DAILY 
4. amLODIPine 5 mg PO DAILY 

 
Discharge Medications:
1.  Cholestyramine 4 gm PO BID  
2.  amLODIPine 5 mg PO DAILY  
3.  HydrOXYzine 25 mg PO QID:PRN pruritis  
4.  Ranitidine 150 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Biliary obstruction secondary to ampullary mass 
# Pruritus 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a priviliege to care for you at the ___ 
___. You were admitted for severe itching due to 
blockage of your biliary system by a mass. You underwent stent 
placement to bypass the blockage which will allow your bilirubin 
to decrease and lead to resolution of your itching. You had a 
biopsy taken of the mass and the results are pending at 
discharge. You will have close follow up to discuss these 
results as well as the next steps. 

Your itching should improve as your labwork improves. Please 
continue cholestyramine twice a day (instead of once a day) to 
help with symptoms. You may also apply a lotion such as Sarna or 
a gentle cream/lotion to help with symptoms. If you have 
difficulty sleeping at night you may try an over the counter 
medication such as Melatonin or Benadryl. You may also continue 
to take Hydroxyzine for itching. Please try not to drive or 
operate a motor vehicle if you opt for a sedating medication 
such as Benadryl. 

At the time of discharge your labwork is as follows:
Total bilirubin 16.7, ALT 68, AST 59, ALP 364, INR 1.6
IgG subclasses and ___ are pending.
Your pathology is pending as well, our ERCP team will contact 
you with results when they are available.

Please call your PCP to make an appointment early this week and 
have your liver tests repeated. Please continue to take all 
medications as prescribed and follow up with all appointments as 
detailed below. 

We wish you the best! 

Sincerely,
Your ___ team

 
Followup Instructions:
___